US05990124
To a solution of 14.1 g (100 mmol) of tropine in 50 mL of methylene chloride is added dropwise 7.75 g (50 mmol) of succinyl chloride in 100 mL of methylene chloride with cooling in an ice bath. Then the mixture is allowed to warm to room temperature. After the reaction mixture is poured into 200 mL of cold water, the aqueous layer is adjusted to pH 10-11 with 6 N NaOH aqueous solution and extracted with chloroform. The resulting oil is purified by column chromatography (silica gel, 20% methanol in chloroform) to yield 11.8 g (65%) of bis-tropan-3-yl succinate as a thick oil.

reactant | tropine | 100 mmol, 14.1 g | CN1C2CCC1CC(C2)O | C8H15NO
reactant | succinyl chloride | 50 mmol, 7.75 g | C(CCC(=O)Cl)(=O)Cl | C4H4Cl2O2
reactant | water | 200 mL | O | H2O
reactant | NaOH | 6 N | [OH-].[Na+]
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
product | bis-tropan-3-yl succinate | 11.8 g, 65% | C(CCC(=O)OC1C[C@H]2CC[C@@H](C1)N2C)(=O)OC2C[C@H]1CC[C@@H](C2)N1C | C20H32N2O4
